US04351893
3-[4-(Dimethylamino)phenyl]-1-(5,6,7,8-tetrahydronaphthalen-2-yl)-2-propen-1-one (2)
A solution of 2.61 g of 6-acetyl-1,2,3,4-tetrahydronaphthalene (15 mmoles) (1), 2.23 g of p-dimethylaminobenzaldehyde (15 mmoles), and 0.66 g of sodium hydroxide in 50 ml of ethanol was stirred under nitrogen at about 60° for 90 hr. The reaction mixture was cooled in an ice bath, and the precipitated solid 3-[4-(dimethylamino)phenyl]-1-(5,6,7,8-tetrahydroaphthalen-2-yl)-2-propen-1-one was collected by filtration and washed with cold ethanol. Yield: 3.0 g (61%); m.p. 134° to 135°. λmax (CHCl3); 410 nm (ε=17,200); 266 nm (17,600). Calcd for C21C23NO: C, 82.59; H, 7.59; N, 4.59. Found: C, 80.38, 80.41; H, 7.30, 7.30; N, 3.59, 3.97.

reactant | 6-acetyl-1,2,3,4-tetrahydronaphthalene | 15 mmoles, 2.61 g | C(C)(=O)C=1C=C2CCCCC2=CC1 | C12H14O
reactant | p-dimethylaminobenzaldehyde | 15 mmoles, 2.23 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | sodium hydroxide | 0.66 g | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-[4-(Dimethylamino)phenyl]-1-(5,6,7,8-tetrahydronaphthalen-2-yl)-2-propen-1-one | CN(C1=CC=C(C=C1)C=CC(=O)C1=CC=2CCCCC2C=C1)C | C21H23NO
